US05252538
Preparation of diethyl 5,6-diamino-2,3-pyridinedicarboxylate
Diethyl 6-amino-5-nitro-2,3-pyridinedicarboxylate (5.00 g, 0.0176 mol) is suspended in 250 mL of absolute ethanol and the mixture cooled to 0` C. Palladium on carbon (50 g of 10% is added and the mixture is shaken under 50 psi hydrogen in a Parr apparatus for four hours. The catalyst is removed by filtration through a pad of Celite, and the filtrate is concentrated to yield 4.21 g (94.2%) of product as a yellow solid, melting point 143°-146.5° C.

reactant | Diethyl 6-amino-5-nitro-2,3-pyridinedicarboxylate | 0.0176 mol, 5.00 g | NC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C11H13N3O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | [Pd] | Pd
product | diethyl 5,6-diamino-2,3-pyridinedicarboxylate | 4.21 g, 94.2% | NC=1C=C(C(=NC1N)C(=O)OCC)C(=O)OCC | C11H15N3O4
